US07625880B2
To a 1 L 3-neck round-bottom flask equipped with a magnetic stir-bar was added 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde (7.96 g, 21.9 mmole) and THF (260 mL). The resulting slurry was cooled to −78° C., and vinylmagnesium bromide (175 mL, 1.0 M in THF) was added dropwise over 30 minutes. The mixture was stirred at −78° C. for 2 hours, then warmed to -10° C. over 30 minutes and maintained at −10° C. for an additional 2 hours. The reaction was then quenched by addition of saturated aqueous ammonium chloride (200 mL), and extracted into EtOAc (2×200 mL). The organic layers were collected, washed with brine (2×100 mL), dried over sodium sulfate, and concentrated in vacuo to provide 2-(4-fluoro-2-methyl-phenylamino)-7-(1-hydroxy-allyl)-1,6-dimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one (7.8 g, 91%) as an orange-yellow solid, which was used without further purification. 1H NMR (400 MHz, DMSO-d6+TFA) δ 10.52 (br s, 1H), 10.38 (br s, 1H), 7.71 (app s, 2H), 7.55 (dd, 1H, J1=5.5 Hz, J2=8.6 Hz), 7.35 (dd, 1H, J1=3.1 Hz, J2=9.8 Hz), 7.24 (td, 1H, J1=9.1 Hz, J2=11.7 Hz), 6.02 (ddd, 1H, J1=5.9 Hz, J2=10.6 Hz, J3=17.2 Hz), 5.41 (app d, 1H, J=5.5 Hz), 5.33 (dt, 1H, J1=1.6 Hz, J2=17.2 Hz), 5.17 (dt, 1H, J1=1.2 Hz, J2=10.2 Hz), 4.19 (s, 3H), 2.29 (s, 3H), 2.26 (s, 3H); ESMS (m/z): 393 (M+1)+.

reactant | 2-(4-fluoro-2-methyl-phenylamino)-1,6-dimethyl-9-oxo-8,9-dihydro-1H-imidazo[4,5-h]isoquinoline-7-carbaldehyde | 21.9 mmole, 7.96 g | FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C=O)C)N1)C)C | C20H17FN4O2
reactant | vinylmagnesium bromide | 1.0 M, 175 mL | C(=C)[Mg]Br
solvent | THF | 260 mL | C1CCOC1 | C4H8O
product | 2-(4-fluoro-2-methyl-phenylamino)-7-(1-hydroxy-allyl)-1,6-dimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one | 7.8 g, 91% | FC1=CC(=C(C=C1)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C(C=C)O)C)N1)C)C | C22H21FN4O2
